US07067529B2
3-Methoxybenzylchloride (7.26 mL, 50 mmol) was dissolved in diethyl ether (50 mL) and magnesium metal (1.28 g, 52.5 mmol) was added without stirring. Several crystals of iodine were added to the magnesium “pile”. When the reaction begins, stirring is started and external cooling is applied as necessary to maintain gentle refluxing. Once the initial reaction was complete, the mixture was refluxed for 1 h to complete the reaction. The resulting gray/green mixture was cooled in an ice-bath and (4-benzyloxy-3-methoxy-benzylidene)-(2,2-dimethoxy-ethyl)-amine (6.58 g, 20 mmol) in diethyl ether (30 mL) was added dropwise (a precipitate forms with each drop). After addition was complete, the resulting suspension was heated at reflux for 2 hours. The mixture was cooled in an ice-bath and saturated ammonium chloride solution (50 mL) was carefully added dropwise. The mixture was stirred at 0° C. for 15 minutes and then room temperature for 1 h. Water (50 mL) was added, and the mixture was filtered. The organic layer was separated, washed with water (50 mL), saturated aqueous sodium chloride solution (40 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford [1-(4-benzyloxy-3-methoxy-phenyl)-2-(3-methoxy-phenyl)-ethyl]-(2,2-dimethoxy-ethyl)-amine as a light tan solid which was used without further purification.

reactant | 3-Methoxybenzylchloride | 50 mmol, 7.26 mL | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | magnesium | 52.5 mmol, 1.28 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (4-benzyloxy-3-methoxy-benzylidene)-(2,2-dimethoxy-ethyl)-amine | 20 mmol, 6.58 g | C(C1=CC=CC=C1)OC1=C(C=C(C=NCC(OC)OC)C=C1)OC | C19H23NO4
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | Water | 50 mL | O | H2O
product | [1-(4-benzyloxy-3-methoxy-phenyl)-2-(3-methoxy-phenyl)-ethyl]-(2,2-dimethoxy-ethyl)-amine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC1=CC(=CC=C1)OC)NCC(OC)OC)OC | C27H33NO5
